US07759527B2
Synthesis of 3,4-dimethoxy styrene (by monomode microwave irradiation method)
A mixture of 3,4-dimethoxycinnamic acid (0.0083 mol), KOH (10%, 5 ml), methylimidazole (1 mL) and polyethylene glycol (5 ml) were taken in a 100 ml round bottom flask fitted with reflux condenser. The flask was placed inside the microwave oven and irradiated (200 W, 200° C.) for 15 minutes. After completion of reaction, it was worked up and purified as in example V and provided a solid (m.p. 110-114° C.); 1H NMR (CDCl3) δ 7.01 (2H, m), 6.84 (1H, d, J=7.27 Hz), 6.63 (1H, d, J=10.80 Hz and J=16.10 Hz), 5.60 (1H, d, J=16.10 Hz), 5.15 (1H, d, J=10.80 Hz), 3.90 (1H, s), 3.87 (1H, s); 13C NMR (CDCl3) δ 150.1, 149.2, 137.4, 131.2, 119.8, 112.6, 111.6, 109.7 and 55.8.

reactant | 3,4-dimethoxycinnamic acid | 0.0083 mol | COC=1C=C(C=CC(=O)O)C=CC1OC | C11H12O4
reactant | KOH | 5 ml | [OH-].[K+]
reactant | methylimidazole | 1 mL | CC=1NC=CN1 | C4H6N2
product | 3,4-dimethoxy styrene | COC=1C=C(C=C)C=CC1OC | C10H12O2
